### PR TITLE
[Merged by Bors] - feat(CategoryTheory): weak factorization systems

### PR DESCRIPTION
**Pull request by joelriou**
---

- [x] depends on: #20666

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/MorphismProperty/WeakFactorizationSystem.lean [hunk 1]
```diff
@@ -0,0 +1,68 @@
...
+
+lemma rlp_eq_of_wfs : W₁.rlp = W₂ := IsWeakFactorizationSystem.rlp
+
+lemma llp_eq_of_wfs : W₂.llp = W₁ := IsWeakFactorizationSystem.llp
+
+variable {W₁ W₂} in
+lemma hasLiftingProperty_of_wfs {A B X Y : C} (i : A ⟶ B) (p : X ⟶ Y)
+    (hi : W₁ i) (hp : W₂ p) : HasLiftingProperty i p := by
+  rw [← llp_eq_of_wfs W₁ W₂] at hi
+  exact hi p hp
```
Comment (callesonne) [inline Mathlib/CategoryTheory/MorphismProperty/WeakFactorizationSystem.lean:64]: I just find short one liners very satisfying so do what you want with this:

```suggestion
lemma hasLiftingProperty_of_wfs {A B X Y : C} (i : A ⟶ B) (p : X ⟶ Y)
    (hi : W₁ i) (hp : W₂ p) : HasLiftingProperty i p :=
  (llp_eq_of_wfs W₁ W₂ ▸ hi) p hp

```

**Review by callesonne — APPROVED** [review]
Very straightforward, LGTM!

File: Mathlib/CategoryTheory/MorphismProperty/WeakFactorizationSystem.lean [hunk 2]
```diff
@@ -0,0 +1,68 @@
...
+
+lemma rlp_eq_of_wfs : W₁.rlp = W₂ := IsWeakFactorizationSystem.rlp
+
+lemma llp_eq_of_wfs : W₂.llp = W₁ := IsWeakFactorizationSystem.llp
+
+variable {W₁ W₂} in
+lemma hasLiftingProperty_of_wfs {A B X Y : C} (i : A ⟶ B) (p : X ⟶ Y)
+    (hi : W₁ i) (hp : W₂ p) : HasLiftingProperty i p :=
+  (llp_eq_of_wfs W₁ W₂ ▸ hi) p hp
+
```
Comment (joelriou) [inline Mathlib/CategoryTheory/MorphismProperty/WeakFactorizationSystem.lean:64]:
```suggestion
```

**Review by adamtopaz — COMMENTED** [review]
bors r+
